US07442827B2
Conventionally, a method for producing cyclopentanone-2,3,5-tricarboxylic acid triester, which is comprised of allowing dimethyl itaconate to react with sodium salt of dimethyl malonate that is prepared from sodium hydride and dimethyl malonate, isolating a product (tetramethyl 1,1,3,4-butanetetracarboxylate) from resulting reaction mixture by purification with distillation after neutralizing with an acid, and then cyclizing the product in the presence of not less than one equivalent of sodium methoxide, and isolating a target compound from resultant reaction mixture after neutralizing with an acid, has been known (see U.S. Pat. No. 4,272,437, columns 361-362).

reactant | dimethyl itaconate | C(C(=C)CC(=O)OC)(=O)OC | C7H10O4
reactant | sodium | [Na] | Na
reactant | dimethyl malonate | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium hydride | [H-].[Na+]
product | tetramethyl 1,1,3,4-butanetetracarboxylate | C(CC(CC(=O)OC)C(=O)OC)(C(=O)OC)C(=O)OC | C12H18O8
